US07034034B2
An ethanolic solution of {4-[4-(3-Trifluoromethyl-phenyl)-1H-imidazol-2-yl]-cyclohexylmethyl}-carbamic acid benzyl ester (4.15 g, 0.0091 mol) and 10% Pd/Carbon (400 mg) was shaken overnight under 55 psi of hydrogen in a Paar apparatus. The mixture was filtered through celite and concentrated under reduced pressure to give a foam, which was triturated with EtOAc/Hexanes/MeOH to produce C-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazole-2-yl]-cyclohexyl}-methylamine as a filterable solid. 1H NMR (DMSO-d6): δ 0.93–1.05 (m, 2H), 1.30–1.4 (m, 2H), 1.42–1.55 (m, 2H), 1.85 (d, J=12.8 Hz, 2H), 1.99 (d, J=11.6 Hz, 2H), 2.4–2.5 (m, 1H), 2.56–2.66 (m, 1H), 7.43–7.48 (m, 1H), 7.50–7.55 (m, 1H), 7.63 (s, 1H), 7.99 (d, J=7.9 Hz, 1H), 8.02 (s, 1H). MS 324 (M+H)+

reactant | {4-[4-(3-Trifluoromethyl-phenyl)-1H-imidazol-2-yl]-cyclohexylmethyl}-carbamic acid benzyl ester | 0.0091 mol, 4.15 g | C(C1=CC=CC=C1)OC(NCC1CCC(CC1)C=1NC=C(N1)C1=CC(=CC=C1)C(F)(F)F)=O | C25H26F3N3O2
reactant | hydrogen | [H][H] | H2
catalyst | Pd Carbon | 400 mg | [Pd].[C]
product | C-{4-[4-(3-trifluoromethyl-phenyl)-1H-imidazole-2-yl]-cyclohexyl}-methylamine | FC(C=1C=C(C=CC1)C=1N=C(NC1)C1CCC(CC1)CN)(F)F | C17H20F3N3
